US04959363
1,4-Dihydro-4-oxo-1-(2-propenyl)-7-(4-pyridinyl)-3-quinolinecarboxamide
The starting acid, 1,4-dihydro-4-oxo-1-(2-propenyl)-7-(4-pyridinyl)-3-quinolinecarboxylic acid (golden crystals, m.p. 259.5°-261° C. from methanol), was prepared by hydrolysis of the corresponding ethyl ester (yellow powder, m.p. 155°-157° C.), in turn prepared by alkylation of ethyl 1,4-dihydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxylate with allyl bromide.

reactant | 1,4-dihydro-4-oxo-1-(2-propenyl)-7-(4-pyridinyl)-3-quinolinecarboxylic acid | O=C1C(=CN(C2=CC(=CC=C12)C1=CC=NC=C1)CC=C)C(=O)O | C18H14N2O3
reactant | ethyl 1,4-dihydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxylate | O=C1C(=CNC2=CC(=CC=C12)C1=CC=NC=C1)C(=O)OCC | C17H14N2O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 1,4-Dihydro-4-oxo-1-(2-propenyl)-7-(4-pyridinyl)-3-quinolinecarboxamide | O=C1C(=CN(C2=CC(=CC=C12)C1=CC=NC=C1)CC=C)C(=O)N | C18H15N3O2
